US07994203B2
Step 2: 7-(3,5-Dimethyl-[1,2,4]triazol-1-yl)-3-(4-methoxy-2-methyl-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole
To a dispersion of 2-[4-(3,5-dimethyl-[1,2,4]triazol-1-yl)-5-methyl-2H-pyrazol-3-yloxy]-1-(4-methoxy-2-methyl-phenyl)-propan-1-one (0.905 g, 2.45 mmol) in 1,2-dichloroethane (20 ml) is added titanium tetrachloride (0.675 ml, 6.12 mmol). The reaction mixture is heated to 85° C. for 2.5 hours and then left at RT overnight. The mixture is quenched carefully with sat. NH4Cl (50 ml) and extracted with EtOAc (2×50 ml). The combined organic extracts are washed with NaHCO3 (50 ml), brine, dried over MgSO4 and concentrated in vacuo to afford a dark brown oil. The crude oil is then taken up in 10% Et2O/iso-hexane (50 ml) and the brown solution is sonicated: no precipitation occurred immediately, but after 2 hours large crystals form. The solid is collected and washed with iso-hexane to give a cream coloured solid. Purification of this solid by recrystallisation from hot Et2O (˜40 ml) yields the title compound as tan crystals; MS: m/z=352.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 7.39 (1H, d), 7.01 (1H, d), 6.94 (1H, dd), 3.83 (3H, s), 2.30 (6H, s), 2.26 (6H, s), 2.11 (3H, s).

reactant | 2-[4-(3,5-dimethyl-[1,2,4]triazol-1-yl)-5-methyl-2H-pyrazol-3-yloxy]-1-(4-methoxy-2-methyl-phenyl)-propan-1-one | 2.45 mmol, 0.905 g | CC1=NN(C(=N1)C)C1=C(NN=C1C)OC(C(=O)C1=C(C=C(C=C1)OC)C)C | C19H23N5O3
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | Et2O iso-hexane | 50 ml | CCOCC.CCCC(C)C
catalyst | titanium tetrachloride | 6.12 mmol, 0.675 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 7-(3,5-Dimethyl-[1,2,4]triazol-1-yl)-3-(4-methoxy-2-methyl-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole | CC1=NN(C(=N1)C)C=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)OC)C)C)C | C19H21N5O2
